US09353211B2
Suspend (4-{[3-(hydroxymethyl)oxetan-3-yl]methoxy}phenyl)(phenyl)methanone in a mixture of 48% aq. HBr and water and heat the mixture to reflux for 1 hour. Extract the product into dichloromethane, and evaporate the solvent, the solid residue may be recrystallised from ethanol to provide {4-[3-bromo-2,2-bis(hydroxymethyl)propoxy]phenyl}(phenyl)methanone.

reactant | (4-{[3-(hydroxymethyl)oxetan-3-yl]methoxy}phenyl)(phenyl)methanone | OCC1(COC1)COC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C18H18O4
reactant | HBr | Br | BrH
solvent | water | O | H2O
product | {4-[3-bromo-2,2-bis(hydroxymethyl)propoxy]phenyl}(phenyl)methanone | BrCC(COC1=CC=C(C=C1)C(=O)C1=CC=CC=C1)(CO)CO | C18H19BrO4
